US04855482
To a solution of p-hydroxybenzoic acid benzyl ester (45.6 g, 0.2 mol) in 200 ml N,N-dimethylformamide, sodium carbonate (10.6 g, 0.1 mol) was added and stirred for 10 minutes at room temperature. Then a solution of m-xylylenedichloride (17.3 g, 0.1 mol) in 100 ml of N,N-dimethylformamide was added in drops to the reaction mixture in 10 minutes. The reaction mixture stirred at 113° C. for 4 hours, cooled and blown into water, and the obtained precipitate was filtered, rinsed with water. Then crued product was suspended in methanol and stirred at 60° C. for 30 minutes, cooled, filtered, and gave 15.8 g (yield 26.9%) of 1,3-bis(p-carbobenzyloxyphenoxymethyl)-benzene: m.p. 92.5°-93.8° C.

reactant | p-hydroxybenzoic acid benzyl ester | 0.2 mol, 45.6 g | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)O)=O | C14H12O3
reactant | sodium carbonate | 0.1 mol, 10.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | m-xylylenedichloride | 0.1 mol, 17.3 g | C1(=CC(=CC=C1)CCl)CCl | C8H8Cl2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1,3-bis(p-carbobenzyloxyphenoxymethyl)-benzene | 15.8 g, yield 26.9% | C(=O)(OCC1=CC=CC=C1)C1=CC=C(OCC2=CC(=CC=C2)COC2=CC=C(C=C2)C(=O)OCC2=CC=CC=C2)C=C1 | C36H30O6
